US07842830B2
1,2-Bis-{4-[2-(3,4-bis-dodecyloxy-phenyl)-vinyl]-phenyl}-ethane-1,2-dione (JYC-II-007-A).
A Schlenk tube was charged with 4,4′-dibromobenzil (1.8 g, 4.9 mmol), K2CO3 (3.38 g, 24.5 mmol), Bu4NBr (1.58 g, 4.9 mmol), LiCl (0.21 g, 4.9 mmol), Pd(OAc)2 (0.11 g, 0.49 mmol), 1,2-bis-dodecyloxy-4-vinyl-benzene (JYC-II-004-A) (5.78 g, 12.2 mmol), and 40 mL of dry DMF. The reaction mixture was heated at 100° C. under Ar over the weekend. The reaction mixture was allowed to cool down to room temperature and extracted with CH2Cl2. The organic phase was washed with H2O and dried over anhydrous MgSO4. The solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, dichloromethane:hexanes=1:2 (v/v), dichloromethane:hexanes=1:1 (v/v)), then dichloromethane:hexanes=3:2 (v/v)) to give a bright yellow solid. The solid was further recrystallized from CH2Cl2/hexanes to give a bright yellow solid (4.27 g, 75.6%).

reactant | 4,4′-dibromobenzil | 4.9 mmol, 1.8 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | K2CO3 | 24.5 mmol, 3.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | LiCl | 4.9 mmol, 0.21 g | [Li+].[Cl-]
reactant | 1,2-bis-dodecyloxy-4-vinyl-benzene | 12.2 mmol, 5.78 g | C(CCCCCCCCCCC)OC1=C(C=C(C=C1)C=C)OCCCCCCCCCCCC | C32H56O2
catalyst | Bu4NBr | 4.9 mmol, 1.58 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(OAc)2 | 0.49 mmol, 0.11 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1,2-Bis-{4-[2-(3,4-bis-dodecyloxy-phenyl)-vinyl]-phenyl}-ethane-1,2-dione | 4.27 g, 75.6% | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C=CC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)C=CC1=CC(=C(C=C1)OCCCCCCCCCCCC)OCCCCCCCCCCCC)=O | C78H118O6
